US08106190B2
At room temperature, 1 M hydrochloric acid (0.38 mL) was added to an ethanol (20 mL) solution of 2-{[(1S,2S)-2-(benzyloxy)cyclohexyl]amino}-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-4-(trifluoromethyl)benzamide (140 mg), 10% palladium-carbon (240 mg) was added, followed by stirring for 1 day under an atmosphere of hydrogen. After neutralizing with a saturated sodium bicarbonate aqueous solution extracting with chloroform, the organic layer was concentrated under a reduced pressure. By purifying the residue by silica gel column chromatography (hexane:ethyl acetate, 1:0 to 1:1), 2-{[(1S,2S)-2-hydroxycyclohexyl]amino}-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-4-(trifluoromethyl)benzamide (66 mg) was obtained as an amorphous.

reactant | hydrochloric acid | 1 M, 0.38 mL | Cl | ClH
reactant | 2-{[(1S,2S)-2-(benzyloxy)cyclohexyl]amino}-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-4-(trifluoromethyl)benzamide | 140 mg | C(C1=CC=CC=C1)O[C@@H]1[C@H](CCCC1)NC1=C(C(=O)NC2=CC=C3CCC(N(C3=C2)C)=O)C=CC(=C1)C(F)(F)F | C31H32F3N3O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | palladium-carbon | 240 mg | [C].[Pd]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-{[(1S,2S)-2-hydroxycyclohexyl]amino}-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)-4-(trifluoromethyl)benzamide | 66 mg | O[C@@H]1[C@H](CCCC1)NC1=C(C(=O)NC2=CC=C3CCC(N(C3=C2)C)=O)C=CC(=C1)C(F)(F)F | C24H26F3N3O3
